US05366972
A suspension of 2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (5.1 g) in acetic anhydride (25 mL) was heated at 140° C. for 5 hours. The solvent was evaporated and the residue fractionated over silica gel to give 4.48 g of 5-acetyl-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one, suitable for use in the next reaction.

reactant | 2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 5.1 g | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C14H13ClN4O
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetyl-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 4.48 g | C(C)(=O)N1C2=C(N(C3=C(C1=O)C=CC=N3)CC)N=C(C=C2C)Cl | C16H15ClN4O2
